US08492582B2
To a solution mixture of the obtained methyl 2-(2-(benzyloxy)-5-(1-isopropylpiperidin-4-yl)benzamido)-4-phenylbenzoate (0.12 g) in ethyl acetate (1.5 mL) and methanol (1.5 mL), 10% palladium-carbon (0.12 g) was added, followed by stirring under a hydrogen atmosphere at room temperature for 1 hour. Chloroform was added to the reaction mixture, and the insoluble substance was removed by filtration. The solvent was evaporated under reduced pressure to obtain 0.086 g of methyl 2-(2-hydroxy-5-(1-isopropylpiperidin-4-yl)benzamido)-4-phenylbenzoate as an orange solid.

reactant | methyl 2-(2-(benzyloxy)-5-(1-isopropylpiperidin-4-yl)benzamido)-4-phenylbenzoate | 0.12 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)C1CCN(CC1)C(C)C | C36H38N2O4
reactant | Chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | 1.5 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 1.5 mL | CO | CH4O
catalyst | palladium-carbon | 0.12 g | [C].[Pd]
product | methyl 2-(2-hydroxy-5-(1-isopropylpiperidin-4-yl)benzamido)-4-phenylbenzoate | 0.086 g | OC1=C(C(=O)NC2=C(C(=O)OC)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)C1CCN(CC1)C(C)C | C29H32N2O4
